US06800629B2
In 10 mL of tetrahydrofuran was dissolved 0.50 g of 3-amino-6-bromo-2-pyrazinecarbonitrile. After adding 0.15 g of 60% sodium hydride, the mixture was stirred at room temperature for 15 minutes. Then, 0.7 mL of di-t-butyl dicarbonate and 0.10 g of 60% sodium hydride were successively added, and the mixture thus formed was stirred at room temperature for one hour. The reaction mixture was added to a liquid mixture consisting of 30 mL of ethyl acetate and 60 mL of water, pH was adjusted to 5 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel column chromatography [eluent: n-hexane:ethyl acetate=5:1] to obtain 0.30 g of t-butyl 5-bromo-3-cyano-2-pyrazinylcarbamate as a white-colored solid product.

reactant | 3-amino-6-bromo-2-pyrazinecarbonitrile | 0.50 g | NC=1C(=NC(=CN1)Br)C#N | C5H3BrN4
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | di-t-butyl dicarbonate | 0.7 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 60 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | t-butyl 5-bromo-3-cyano-2-pyrazinylcarbamate | 0.30 g | BrC=1N=C(C(=NC1)NC(OC(C)(C)C)=O)C#N | C10H11BrN4O2
